US04276304
2 g of 2-n-butoxyphenylglyoxal hydrate are dissolved in 2.5 ml of dimethylsulfoxide, and a solution of 1.83 g of α,α-dimethyl-3,4-dimethoxyphenethylamine in one ml of dimethylsulfoxide is added thereto. The mixture is stirred at 25° C. for 30 minutes, whereby a solution of α-(α,α-dimethyl-3,4-dimethoxyphenethylimino)-2-n-butoxyacetophenone in dimethylsulfoxide is obtained.

reactant | 2-n-butoxyphenylglyoxal hydrate | 2 g | O.C(CCC)OC1=C(C=CC=C1)C(=O)C=O
reactant | α,α-dimethyl-3,4-dimethoxyphenethylamine | 1.83 g | CC(CC1=CC(=C(C=C1)OC)OC)(C)N | C12H19NO2
solvent | dimethylsulfoxide | 2.5 ml | CS(=O)C | C2H6OS
solvent | dimethylsulfoxide | one ml | CS(=O)C | C2H6OS
product | α-(α,α-dimethyl-3,4-dimethoxyphenethylimino)-2-n-butoxyacetophenone | CC(CC1=CC(=C(C=C1)OC)OC)(C)N=C(C(=O)C1=CC=CC=C1)OCCCC | C24H31NO4
